** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-197/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant K20a: 300 cycles, nominal period
** 3.9952 ns, injected period jitter 2.000000% RMS
** (seeded RNG, seed 185020), TR = TF = 20 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.990000n 0 2.010000n 1.8 4.057179n 1.8
+ 4.077179n 0 6.124359n 0 6.144359n 1.8 8.165350n 1.8
+ 8.185350n 0 10.206341n 0 10.226341n 1.8 12.206385n 1.8
+ 12.226385n 0 14.206429n 0 14.226429n 1.8 16.167520n 1.8
+ 16.187520n 0 18.128611n 0 18.148611n 1.8 20.099344n 1.8
+ 20.119344n 0 22.070076n 0 22.090076n 1.8 24.052783n 1.8
+ 24.072783n 0 26.035490n 0 26.055490n 1.8 28.006478n 1.8
+ 28.026478n 0 29.977466n 0 29.997466n 1.8 31.988241n 1.8
+ 32.008241n 0 33.999015n 0 34.019015n 1.8 36.037521n 1.8
+ 36.057521n 0 38.076026n 0 38.096026n 1.8 40.103895n 1.8
+ 40.123895n 0 42.131764n 0 42.151764n 1.8 44.062668n 1.8
+ 44.082668n 0 45.993572n 0 46.013572n 1.8 48.020518n 1.8
+ 48.040518n 0 50.047464n 0 50.067464n 1.8 52.101597n 1.8
+ 52.121597n 0 54.155731n 0 54.175731n 1.8 56.098163n 1.8
+ 56.118163n 0 58.040594n 0 58.060594n 1.8 60.079055n 1.8
+ 60.099055n 0 62.117516n 0 62.137516n 1.8 64.026578n 1.8
+ 64.046578n 0 65.935639n 0 65.955639n 1.8 67.927960n 1.8
+ 67.947960n 0 69.920281n 0 69.940281n 1.8 71.940432n 1.8
+ 71.960432n 0 73.960583n 0 73.980583n 1.8 75.908750n 1.8
+ 75.928750n 0 77.856917n 0 77.876917n 1.8 79.905510n 1.8
+ 79.925510n 0 81.954104n 0 81.974104n 1.8 83.943750n 1.8
+ 83.963750n 0 85.933396n 0 85.953396n 1.8 87.940864n 1.8
+ 87.960864n 0 89.948331n 0 89.968331n 1.8 91.913790n 1.8
+ 91.933790n 0 93.879249n 0 93.899249n 1.8 95.898931n 1.8
+ 95.918931n 0 97.918613n 0 97.938613n 1.8 99.966440n 1.8
+ 99.986440n 0 102.014267n 0 102.034267n 1.8 103.990169n 1.8
+ 104.010169n 0 105.966071n 0 105.986071n 1.8 107.911420n 1.8
+ 107.931420n 0 109.856768n 0 109.876768n 1.8 111.765914n 1.8
+ 111.785914n 0 113.675059n 0 113.695059n 1.8 115.706963n 1.8
+ 115.726963n 0 117.738866n 0 117.758866n 1.8 119.723226n 1.8
+ 119.743226n 0 121.707585n 0 121.727585n 1.8 123.739016n 1.8
+ 123.759016n 0 125.770446n 0 125.790446n 1.8 127.771013n 1.8
+ 127.791013n 0 129.771579n 0 129.791579n 1.8 131.736335n 1.8
+ 131.756335n 0 133.701091n 0 133.721091n 1.8 135.733270n 1.8
+ 135.753270n 0 137.765450n 0 137.785450n 1.8 139.820609n 1.8
+ 139.840609n 0 141.875768n 0 141.895768n 1.8 143.908517n 1.8
+ 143.928517n 0 145.941266n 0 145.961266n 1.8 147.945679n 1.8
+ 147.965679n 0 149.950093n 0 149.970093n 1.8 151.904093n 1.8
+ 151.924093n 0 153.858093n 0 153.878093n 1.8 155.897760n 1.8
+ 155.917760n 0 157.937427n 0 157.957427n 1.8 159.927894n 1.8
+ 159.947894n 0 161.918361n 0 161.938361n 1.8 163.844145n 1.8
+ 163.864145n 0 165.769929n 0 165.789929n 1.8 167.761647n 1.8
+ 167.781647n 0 169.753364n 0 169.773364n 1.8 171.695572n 1.8
+ 171.715572n 0 173.637779n 0 173.657779n 1.8 175.689182n 1.8
+ 175.709182n 0 177.740585n 0 177.760585n 1.8 179.766304n 1.8
+ 179.786304n 0 181.792023n 0 181.812023n 1.8 183.733350n 1.8
+ 183.753350n 0 185.674676n 0 185.694676n 1.8 187.714633n 1.8
+ 187.734633n 0 189.754589n 0 189.774589n 1.8 191.776284n 1.8
+ 191.796284n 0 193.797979n 0 193.817979n 1.8 195.794461n 1.8
+ 195.814461n 0 197.790943n 0 197.810943n 1.8 199.754993n 1.8
+ 199.774993n 0 201.719042n 0 201.739042n 1.8 203.645991n 1.8
+ 203.665991n 0 205.572940n 0 205.592940n 1.8 207.607271n 1.8
+ 207.627271n 0 209.641601n 0 209.661601n 1.8 211.632370n 1.8
+ 211.652370n 0 213.623139n 0 213.643139n 1.8 215.632598n 1.8
+ 215.652598n 0 217.642058n 0 217.662058n 1.8 219.602870n 1.8
+ 219.622870n 0 221.563682n 0 221.583682n 1.8 223.569798n 1.8
+ 223.589798n 0 225.575914n 0 225.595914n 1.8 227.591096n 1.8
+ 227.611096n 0 229.606278n 0 229.626278n 1.8 231.621514n 1.8
+ 231.641514n 0 233.636750n 0 233.656750n 1.8 235.669003n 1.8
+ 235.689003n 0 237.701255n 0 237.721255n 1.8 239.775264n 1.8
+ 239.795264n 0 241.849272n 0 241.869272n 1.8 243.783144n 1.8
+ 243.803144n 0 245.717017n 0 245.737017n 1.8 247.708948n 1.8
+ 247.728948n 0 249.700880n 0 249.720880n 1.8 251.724203n 1.8
+ 251.744203n 0 253.747526n 0 253.767526n 1.8 255.730002n 1.8
+ 255.750002n 0 257.712478n 0 257.732478n 1.8 259.708335n 1.8
+ 259.728335n 0 261.704191n 0 261.724191n 1.8 263.688725n 1.8
+ 263.708725n 0 265.673258n 0 265.693258n 1.8 267.746161n 1.8
+ 267.766161n 0 269.819065n 0 269.839065n 1.8 271.822474n 1.8
+ 271.842474n 0 273.825883n 0 273.845883n 1.8 275.840723n 1.8
+ 275.860723n 0 277.855564n 0 277.875564n 1.8 279.880094n 1.8
+ 279.900094n 0 281.904625n 0 281.924625n 1.8 283.863830n 1.8
+ 283.883830n 0 285.823035n 0 285.843035n 1.8 287.855825n 1.8
+ 287.875825n 0 289.888614n 0 289.908614n 1.8 291.891144n 1.8
+ 291.911144n 0 293.893673n 0 293.913673n 1.8 295.825707n 1.8
+ 295.845707n 0 297.757740n 0 297.777740n 1.8 299.800639n 1.8
+ 299.820639n 0 301.843538n 0 301.863538n 1.8 303.819818n 1.8
+ 303.839818n 0 305.796098n 0 305.816098n 1.8 307.763606n 1.8
+ 307.783606n 0 309.731115n 0 309.751115n 1.8 311.759988n 1.8
+ 311.779988n 0 313.788860n 0 313.808860n 1.8 315.742579n 1.8
+ 315.762579n 0 317.696297n 0 317.716297n 1.8 319.778378n 1.8
+ 319.798378n 0 321.860459n 0 321.880459n 1.8 323.767206n 1.8
+ 323.787206n 0 325.673953n 0 325.693953n 1.8 327.660580n 1.8
+ 327.680580n 0 329.647207n 0 329.667207n 1.8 331.730001n 1.8
+ 331.750001n 0 333.812795n 0 333.832795n 1.8 335.734479n 1.8
+ 335.754479n 0 337.656162n 0 337.676162n 1.8 339.601818n 1.8
+ 339.621818n 0 341.547475n 0 341.567475n 1.8 343.580774n 1.8
+ 343.600774n 0 345.614074n 0 345.634074n 1.8 347.598430n 1.8
+ 347.618430n 0 349.582787n 0 349.602787n 1.8 351.576203n 1.8
+ 351.596203n 0 353.569619n 0 353.589619n 1.8 355.599367n 1.8
+ 355.619367n 0 357.629115n 0 357.649115n 1.8 359.650750n 1.8
+ 359.670750n 0 361.672385n 0 361.692385n 1.8 363.692648n 1.8
+ 363.712648n 0 365.712911n 0 365.732911n 1.8 367.708198n 1.8
+ 367.728198n 0 369.703485n 0 369.723485n 1.8 371.681206n 1.8
+ 371.701206n 0 373.658927n 0 373.678927n 1.8 375.591591n 1.8
+ 375.611591n 0 377.524255n 0 377.544255n 1.8 379.519331n 1.8
+ 379.539331n 0 381.514407n 0 381.534407n 1.8 383.512880n 1.8
+ 383.532880n 0 385.511354n 0 385.531354n 1.8 387.498325n 1.8
+ 387.518325n 0 389.485295n 0 389.505295n 1.8 391.432015n 1.8
+ 391.452015n 0 393.378735n 0 393.398735n 1.8 395.377265n 1.8
+ 395.397265n 0 397.375795n 0 397.395795n 1.8 399.476832n 1.8
+ 399.496832n 0 401.577868n 0 401.597868n 1.8 403.555565n 1.8
+ 403.575565n 0 405.533261n 0 405.553261n 1.8 407.482500n 1.8
+ 407.502500n 0 409.431739n 0 409.451739n 1.8 411.454125n 1.8
+ 411.474125n 0 413.476512n 0 413.496512n 1.8 415.398840n 1.8
+ 415.418840n 0 417.321169n 0 417.341169n 1.8 419.274294n 1.8
+ 419.294294n 0 421.227418n 0 421.247418n 1.8 423.179606n 1.8
+ 423.199606n 0 425.131794n 0 425.151794n 1.8 427.136502n 1.8
+ 427.156502n 0 429.141210n 0 429.161210n 1.8 431.063202n 1.8
+ 431.083202n 0 432.985194n 0 433.005194n 1.8 435.001734n 1.8
+ 435.021734n 0 437.018274n 0 437.038274n 1.8 438.953438n 1.8
+ 438.973438n 0 440.888601n 0 440.908601n 1.8 442.896656n 1.8
+ 442.916656n 0 444.904711n 0 444.924711n 1.8 446.919450n 1.8
+ 446.939450n 0 448.934190n 0 448.954190n 1.8 450.960650n 1.8
+ 450.980650n 0 452.987111n 0 453.007111n 1.8 454.955023n 1.8
+ 454.975023n 0 456.922935n 0 456.942935n 1.8 458.913140n 1.8
+ 458.933140n 0 460.903345n 0 460.923345n 1.8 462.894520n 1.8
+ 462.914520n 0 464.885696n 0 464.905696n 1.8 466.924116n 1.8
+ 466.944116n 0 468.962535n 0 468.982535n 1.8 470.992441n 1.8
+ 471.012441n 0 473.022348n 0 473.042348n 1.8 475.029636n 1.8
+ 475.049636n 0 477.036925n 0 477.056925n 1.8 478.995556n 1.8
+ 479.015556n 0 480.954186n 0 480.974186n 1.8 483.001666n 1.8
+ 483.021666n 0 485.049145n 0 485.069145n 1.8 487.061573n 1.8
+ 487.081573n 0 489.074001n 0 489.094001n 1.8 491.062510n 1.8
+ 491.082510n 0 493.051019n 0 493.071019n 1.8 495.077930n 1.8
+ 495.097930n 0 497.104840n 0 497.124840n 1.8 499.111634n 1.8
+ 499.131634n 0 501.118427n 0 501.138427n 1.8 503.169649n 1.8
+ 503.189649n 0 505.220871n 0 505.240871n 1.8 507.213740n 1.8
+ 507.233740n 0 509.206610n 0 509.226610n 1.8 511.270388n 1.8
+ 511.290388n 0 513.334167n 0 513.354167n 1.8 515.398111n 1.8
+ 515.418111n 0 517.462055n 0 517.482055n 1.8 519.427804n 1.8
+ 519.447804n 0 521.393554n 0 521.413554n 1.8 523.412637n 1.8
+ 523.432637n 0 525.431719n 0 525.451719n 1.8 527.451105n 1.8
+ 527.471105n 0 529.470491n 0 529.490491n 1.8 531.472526n 1.8
+ 531.492526n 0 533.474561n 0 533.494561n 1.8 535.487278n 1.8
+ 535.507278n 0 537.499995n 0 537.519995n 1.8 539.549536n 1.8
+ 539.569536n 0 541.599076n 0 541.619076n 1.8 543.648871n 1.8
+ 543.668871n 0 545.698666n 0 545.718666n 1.8 547.756871n 1.8
+ 547.776871n 0 549.815077n 0 549.835077n 1.8 551.836237n 1.8
+ 551.856237n 0 553.857396n 0 553.877396n 1.8 555.824192n 1.8
+ 555.844192n 0 557.790987n 0 557.810987n 1.8 559.805580n 1.8
+ 559.825580n 0 561.820174n 0 561.840174n 1.8 563.794235n 1.8
+ 563.814235n 0 565.768295n 0 565.788295n 1.8 567.791613n 1.8
+ 567.811613n 0 569.814930n 0 569.834930n 1.8 571.842631n 1.8
+ 571.862631n 0 573.870332n 0 573.890332n 1.8 575.933109n 1.8
+ 575.953109n 0 577.995886n 0 578.015886n 1.8 579.972812n 1.8
+ 579.992812n 0 581.949737n 0 581.969737n 1.8 583.957887n 1.8
+ 583.977887n 0 585.966037n 0 585.986037n 1.8 587.930393n 1.8
+ 587.950393n 0 589.894749n 0 589.914749n 1.8 591.965034n 1.8
+ 591.985034n 0 594.035319n 0 594.055319n 1.8 596.027330n 1.8
+ 596.047330n 0 598.019340n 0 598.039340n 1.8 600.014560n 1.8
+ 600.034560n 0 602.009780n 0 602.029780n 1.8 604.013792n 1.8
+ 604.033792n 0 606.017805n 0 606.037805n 1.8 608.014330n 1.8
+ 608.034330n 0 610.010855n 0 610.030855n 1.8 611.958522n 1.8
+ 611.978522n 0 613.906188n 0 613.926188n 1.8 615.946606n 1.8
+ 615.966606n 0 617.987025n 0 618.007025n 1.8 619.960325n 1.8
+ 619.980325n 0 621.933626n 0 621.953626n 1.8 623.885024n 1.8
+ 623.905024n 0 625.836421n 0 625.856421n 1.8 627.857201n 1.8
+ 627.877201n 0 629.877981n 0 629.897981n 1.8 631.921875n 1.8
+ 631.941875n 0 633.965769n 0 633.985769n 1.8 636.001323n 1.8
+ 636.021323n 0 638.036876n 0 638.056876n 1.8 640.055308n 1.8
+ 640.075308n 0 642.073740n 0 642.093740n 1.8 644.041616n 1.8
+ 644.061616n 0 646.009492n 0 646.029492n 1.8 647.934039n 1.8
+ 647.954039n 0 649.858585n 0 649.878585n 1.8 651.838829n 1.8
+ 651.858829n 0 653.819073n 0 653.839073n 1.8 655.785500n 1.8
+ 655.805500n 0 657.751927n 0 657.771927n 1.8 659.787168n 1.8
+ 659.807168n 0 661.822409n 0 661.842409n 1.8 663.841740n 1.8
+ 663.861740n 0 665.861071n 0 665.881071n 1.8 667.905826n 1.8
+ 667.925826n 0 669.950580n 0 669.970580n 1.8 671.895403n 1.8
+ 671.915403n 0 673.840227n 0 673.860227n 1.8 675.861890n 1.8
+ 675.881890n 0 677.883554n 0 677.903554n 1.8 679.911996n 1.8
+ 679.931996n 0 681.940439n 0 681.960439n 1.8 683.880397n 1.8
+ 683.900397n 0 685.820355n 0 685.840355n 1.8 687.833389n 1.8
+ 687.853389n 0 689.846423n 0 689.866423n 1.8 691.875979n 1.8
+ 691.895979n 0 693.905534n 0 693.925534n 1.8 695.932139n 1.8
+ 695.952139n 0 697.958744n 0 697.978744n 1.8 699.936721n 1.8
+ 699.956721n 0 701.914697n 0 701.934697n 1.8 703.904445n 1.8
+ 703.924445n 0 705.894192n 0 705.914192n 1.8 707.896887n 1.8
+ 707.916887n 0 709.899581n 0 709.919581n 1.8 711.869664n 1.8
+ 711.889664n 0 713.839746n 0 713.859746n 1.8 715.826391n 1.8
+ 715.846391n 0 717.813037n 0 717.833037n 1.8 719.801898n 1.8
+ 719.821898n 0 721.790759n 0 721.810759n 1.8 723.780916n 1.8
+ 723.800916n 0 725.771073n 0 725.791073n 1.8 727.766579n 1.8
+ 727.786579n 0 729.762084n 0 729.782084n 1.8 731.796655n 1.8
+ 731.816655n 0 733.831226n 0 733.851226n 1.8 735.786138n 1.8
+ 735.806138n 0 737.741051n 0 737.761051n 1.8 739.724508n 1.8
+ 739.744508n 0 741.707964n 0 741.727964n 1.8 743.665763n 1.8
+ 743.685763n 0 745.623561n 0 745.643561n 1.8 747.547840n 1.8
+ 747.567840n 0 749.472120n 0 749.492120n 1.8 751.458238n 1.8
+ 751.478238n 0 753.444356n 0 753.464356n 1.8 755.408565n 1.8
+ 755.428565n 0 757.372774n 0 757.392774n 1.8 759.374137n 1.8
+ 759.394137n 0 761.375499n 0 761.395499n 1.8 763.371321n 1.8
+ 763.391321n 0 765.367144n 0 765.387144n 1.8 767.301170n 1.8
+ 767.321170n 0 769.235197n 0 769.255197n 1.8 771.198488n 1.8
+ 771.218488n 0 773.161779n 0 773.181779n 1.8 775.155732n 1.8
+ 775.175732n 0 777.149684n 0 777.169684n 1.8 779.175099n 1.8
+ 779.195099n 0 781.200514n 0 781.220514n 1.8 783.202581n 1.8
+ 783.222581n 0 785.204649n 0 785.224649n 1.8 787.190495n 1.8
+ 787.210495n 0 789.176341n 0 789.196341n 1.8 791.139158n 1.8
+ 791.159158n 0 793.101975n 0 793.121975n 1.8 795.127667n 1.8
+ 795.147667n 0 797.153358n 0 797.173358n 1.8 799.164543n 1.8
+ 799.184543n 0 801.175729n 0 801.195729n 1.8 803.189911n 1.8
+ 803.209911n 0 805.204092n 0 805.224092n 1.8 807.230737n 1.8
+ 807.250737n 0 809.257381n 0 809.277381n 1.8 811.254799n 1.8
+ 811.274799n 0 813.252217n 0 813.272217n 1.8 815.335926n 1.8
+ 815.355926n 0 817.419635n 0 817.439635n 1.8 819.409952n 1.8
+ 819.429952n 0 821.400269n 0 821.420269n 1.8 823.436184n 1.8
+ 823.456184n 0 825.472098n 0 825.492098n 1.8 827.489313n 1.8
+ 827.509313n 0 829.506528n 0 829.526528n 1.8 831.478379n 1.8
+ 831.498379n 0 833.450229n 0 833.470229n 1.8 835.493741n 1.8
+ 835.513741n 0 837.537252n 0 837.557252n 1.8 839.561391n 1.8
+ 839.581391n 0 841.585530n 0 841.605530n 1.8 843.579554n 1.8
+ 843.599554n 0 845.573578n 0 845.593578n 1.8 847.491900n 1.8
+ 847.511900n 0 849.410222n 0 849.430222n 1.8 851.428136n 1.8
+ 851.448136n 0 853.446049n 0 853.466049n 1.8 855.453601n 1.8
+ 855.473601n 0 857.461153n 0 857.481153n 1.8 859.409895n 1.8
+ 859.429895n 0 861.358637n 0 861.378637n 1.8 863.411158n 1.8
+ 863.431158n 0 865.463679n 0 865.483679n 1.8 867.420645n 1.8
+ 867.440645n 0 869.377611n 0 869.397611n 1.8 871.432867n 1.8
+ 871.452867n 0 873.488124n 0 873.508124n 1.8 875.457393n 1.8
+ 875.477393n 0 877.426662n 0 877.446662n 1.8 879.431757n 1.8
+ 879.451757n 0 881.436851n 0 881.456851n 1.8 883.437166n 1.8
+ 883.457166n 0 885.437480n 0 885.457480n 1.8 887.451463n 1.8
+ 887.471463n 0 889.465446n 0 889.485446n 1.8 891.372636n 1.8
+ 891.392636n 0 893.279826n 0 893.299826n 1.8 895.227453n 1.8
+ 895.247453n 0 897.175079n 0 897.195079n 1.8 899.216554n 1.8
+ 899.236554n 0 901.258028n 0 901.278028n 1.8 903.235554n 1.8
+ 903.255554n 0 905.213080n 0 905.233080n 1.8 907.292864n 1.8
+ 907.312864n 0 909.372648n 0 909.392648n 1.8 911.382349n 1.8
+ 911.402349n 0 913.392050n 0 913.412050n 1.8 915.355396n 1.8
+ 915.375396n 0 917.318741n 0 917.338741n 1.8 919.363388n 1.8
+ 919.383388n 0 921.408035n 0 921.428035n 1.8 923.449727n 1.8
+ 923.469727n 0 925.491418n 0 925.511418n 1.8 927.513512n 1.8
+ 927.533512n 0 929.535607n 0 929.555607n 1.8 931.560452n 1.8
+ 931.580452n 0 933.585297n 0 933.605297n 1.8 935.670371n 1.8
+ 935.690371n 0 937.755445n 0 937.775445n 1.8 939.731542n 1.8
+ 939.751542n 0 941.707639n 0 941.727639n 1.8 943.741762n 1.8
+ 943.761762n 0 945.775884n 0 945.795884n 1.8 947.764911n 1.8
+ 947.784911n 0 949.753939n 0 949.773939n 1.8 951.781821n 1.8
+ 951.801821n 0 953.809703n 0 953.829703n 1.8 955.854958n 1.8
+ 955.874958n 0 957.900214n 0 957.920214n 1.8 959.874788n 1.8
+ 959.894788n 0 961.849363n 0 961.869363n 1.8 963.819855n 1.8
+ 963.839855n 0 965.790347n 0 965.810347n 1.8 967.757274n 1.8
+ 967.777274n 0 969.724200n 0 969.744200n 1.8 971.717339n 1.8
+ 971.737339n 0 973.710478n 0 973.730478n 1.8 975.675314n 1.8
+ 975.695314n 0 977.640151n 0 977.660151n 1.8 979.495783n 1.8
+ 979.515783n 0 981.351415n 0 981.371415n 1.8 983.363862n 1.8
+ 983.383862n 0 985.376310n 0 985.396310n 1.8 987.368509n 1.8
+ 987.388509n 0 989.360709n 0 989.380709n 1.8 991.335217n 1.8
+ 991.355217n 0 993.309724n 0 993.329724n 1.8 995.236052n 1.8
+ 995.256052n 0 997.162380n 0 997.182380n 1.8 999.114389n 1.8
+ 999.134389n 0 1001.066397n 0 1001.086397n 1.8 1003.008115n 1.8
+ 1003.028115n 0 1004.949833n 0 1004.969833n 1.8 1006.968882n 1.8
+ 1006.988882n 0 1008.987932n 0 1009.007932n 1.8 1010.999989n 1.8
+ 1011.019989n 0 1013.012046n 0 1013.032046n 1.8 1015.019520n 1.8
+ 1015.039520n 0 1017.026994n 0 1017.046994n 1.8 1019.025043n 1.8
+ 1019.045043n 0 1021.023093n 0 1021.043093n 1.8 1023.004474n 1.8
+ 1023.024474n 0 1024.985856n 0 1025.005856n 1.8 1026.978392n 1.8
+ 1026.998392n 0 1028.970929n 0 1028.990929n 1.8 1030.862946n 1.8
+ 1030.882946n 0 1032.754963n 0 1032.774963n 1.8 1034.782186n 1.8
+ 1034.802186n 0 1036.809409n 0 1036.829409n 1.8 1038.745363n 1.8
+ 1038.765363n 0 1040.681317n 0 1040.701317n 1.8 1042.673636n 1.8
+ 1042.693636n 0 1044.665956n 0 1044.685956n 1.8 1046.638343n 1.8
+ 1046.658343n 0 1048.610731n 0 1048.630731n 1.8 1050.567418n 1.8
+ 1050.587418n 0 1052.524106n 0 1052.544106n 1.8 1054.557254n 1.8
+ 1054.577254n 0 1056.590402n 0 1056.610402n 1.8 1058.657532n 1.8
+ 1058.677532n 0 1060.724663n 0 1060.744663n 1.8 1062.723112n 1.8
+ 1062.743112n 0 1064.721561n 0 1064.741561n 1.8 1066.712277n 1.8
+ 1066.732277n 0 1068.702994n 0 1068.722994n 1.8 1070.614441n 1.8
+ 1070.634441n 0 1072.525888n 0 1072.545888n 1.8 1074.555757n 1.8
+ 1074.575757n 0 1076.585626n 0 1076.605626n 1.8 1078.523356n 1.8
+ 1078.543356n 0 1080.461087n 0 1080.481087n 1.8 1082.479947n 1.8
+ 1082.499947n 0 1084.498807n 0 1084.518807n 1.8 1086.569814n 1.8
+ 1086.589814n 0 1088.640822n 0 1088.660822n 1.8 1090.685628n 1.8
+ 1090.705628n 0 1092.730433n 0 1092.750433n 1.8 1094.773716n 1.8
+ 1094.793716n 0 1096.816998n 0 1096.836998n 1.8 1098.743443n 1.8
+ 1098.763443n 0 1100.669887n 0 1100.689887n 1.8 1102.704594n 1.8
+ 1102.724594n 0 1104.739301n 0 1104.759301n 1.8 1106.746767n 1.8
+ 1106.766767n 0 1108.754232n 0 1108.774232n 1.8 1110.720751n 1.8
+ 1110.740751n 0 1112.687270n 0 1112.707270n 1.8 1114.698087n 1.8
+ 1114.718087n 0 1116.708904n 0 1116.728904n 1.8 1118.693938n 1.8
+ 1118.713938n 0 1120.678972n 0 1120.698972n 1.8 1122.688051n 1.8
+ 1122.708051n 0 1124.697131n 0 1124.717131n 1.8 1126.656359n 1.8
+ 1126.676359n 0 1128.615587n 0 1128.635587n 1.8 1130.613156n 1.8
+ 1130.633156n 0 1132.610725n 0 1132.630725n 1.8 1134.628023n 1.8
+ 1134.648023n 0 1136.645321n 0 1136.665321n 1.8 1138.691305n 1.8
+ 1138.711305n 0 1140.737288n 0 1140.757288n 1.8 1142.741723n 1.8
+ 1142.761723n 0 1144.746158n 0 1144.766158n 1.8 1146.727316n 1.8
+ 1146.747316n 0 1148.708473n 0 1148.728473n 1.8 1150.745704n 1.8
+ 1150.765704n 0 1152.782934n 0 1152.802934n 1.8 1154.742950n 1.8
+ 1154.762950n 0 1156.702966n 0 1156.722966n 1.8 1158.722313n 1.8
+ 1158.742313n 0 1160.741661n 0 1160.761661n 1.8 1162.698312n 1.8
+ 1162.718312n 0 1164.654962n 0 1164.674962n 1.8 1166.657510n 1.8
+ 1166.677510n 0 1168.660057n 0 1168.680057n 1.8 1170.675928n 1.8
+ 1170.695928n 0 1172.691799n 0 1172.711799n 1.8 1174.672856n 1.8
+ 1174.692856n 0 1176.653913n 0 1176.673913n 1.8 1178.663592n 1.8
+ 1178.683592n 0 1180.673271n 0 1180.693271n 1.8 1182.658008n 1.8
+ 1182.678008n 0 1184.642746n 0 1184.662746n 1.8 1186.634563n 1.8
+ 1186.654563n 0 1188.626379n 0 1188.646379n 1.8 1190.617935n 1.8
+ 1190.637935n 0 1192.609490n 0 1192.629490n 1.8 1194.612730n 1.8
+ 1194.632730n 0 1196.615970n 0 1196.635970n 1.8 1198.582985n 1.8
+ 1198.602985n 0 1200.550000n 0 1200.570000n 1.8 1202.547600n 1.8
+ 1202.567600n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.25u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
